US05068334
1-n-Butyl-4-methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example 5(b) from 4-methyl- 5,6,7,8-tetrahydro-cumarin-5-one and n-butylamine.

reactant | 4-methyl- 5,6,7,8-tetrahydro-cumarin-5-one | CC1=CC(OC=2CCCC(C12)=O)=O | C10H10O3
reactant | n-butylamine | C(CCC)N | C4H11N
product | 1-n-Butyl-4-methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | C(CCC)N1C(C=C(C=2C(CCCC12)=O)C)=O | C14H19NO2
